US07833820B2
1,1,1,4,4,7,7,7-Octachloro-1,4,7-trisilaheptane
Vinyltrichlorosilane (16.8 g, 104 mmol) was heated to 60° C. and 100 μL 10% H2PtCl6/IPA-solution was added. 1,1,1,4,4-pentachloro-1,4-disilabutane (20.4 g, 77.7 mmol) was added slowly during 20 min so that the temperature did not exceed 100° C. The reaction was allowed to proceed for 12 hours at 100° C., after which it was distilled under vacuum at 115-130° C./<1 mbar. The yield was 31.5 g (74.3 mmol, 96%).

reactant | Vinyltrichlorosilane | 104 mmol, 16.8 g | C(=C)[Si](Cl)(Cl)Cl | C2H3Cl3Si
reactant | 1,1,1,4,4-pentachloro-1,4-disilabutane | 77.7 mmol, 20.4 g | Cl[Si](CC[SiH](Cl)Cl)(Cl)Cl | C2H5Cl5Si2
product | 1,1,1,4,4,7,7,7-Octachloro-1,4,7-trisilaheptane | Cl[Si](CC[Si](CC[Si](Cl)(Cl)Cl)(Cl)Cl)(Cl)Cl | C4H8Cl8Si3
